r_ladder_circuit - fault test
Vin in 0 DC 24
R1 in n1 10.171483
R2 n1 0 20.010281
R3 n1 n2 9.872524
R4 n2 0 20.399063
R5 n2 n3 9.850419
C6 n3 0 4.68e-06
.op
.control
run
print v(in) v(n1) v(n2) v(n3)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i]
.endc
.end
